US04755514
2-(4-methoxyphenyl)pyrazine
The procedure of Example 1 was repeated, using 10.68 g (0.178 mol) of ethylenediamine, 27.0 g (0.148 mol) of 4-methylphenylglyoxal monohydrate, 200 ml of ethanol and 9.01 g of potassium hydroxide. 10.1 g of the titled compound was produced (yield: 37%).

reactant | ethylenediamine | 0.178 mol, 10.68 g | C(CN)N | C2H8N2
reactant | 4-methylphenylglyoxal monohydrate | 0.148 mol, 27.0 g | O.CC1=CC=C(C=C1)C(=O)C=O
reactant | potassium hydroxide | 9.01 g | [OH-].[K+]
reactant | ethanol | 200 ml | C(C)O | C2H6O
product | 2-(4-methoxyphenyl)pyrazine | 10.1 g, yield: 37% | COC1=CC=C(C=C1)C1=NC=CN=C1 | C11H10N2O
